US09334278B2
Trifluoroacetic anhydride (10.2 mL, 60.8 mmol) was added dropwise, with cooling (ice bath), to N,N-dimethylformamide (24 mL) under an argon atmosphere. The cooling bath was removed for 15 min to facilitate stirring and then replaced. A solution of 2-bromo-3-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine (3.47 g, 10.1 mmol) in dichloromethane (5 mL) was added dropwise. The cooling bath was removed; the mixture was stirred for 15 min, then set in a bath at 45° C. and stirred for 16 h. The mixture was cooled, then poured onto ice water (200 mL) containing sodium carbonate (13 g) and extracted four times with ether. The combined ether extracts were washed twice with water, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. Purification by chromatography on (silica, 20% ethyl acetate in hexanes) gave 2-bromo-3-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carbaldehyde (3.17 g, 84%) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm −0.09 (s, 9H), 0.85 (t, J=8.0 Hz, 2H), 2.71 (s, 3H), 3.58 (t, J=8.0 Hz, 2H), 5.68 (s, 2H), 8.87 (s, 1H), 10.04 (s, 1H).

reactant | Trifluoroacetic anhydride | 60.8 mmol, 10.2 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | N,N-dimethylformamide | 24 mL | CN(C=O)C | C3H7NO
reactant | 2-bromo-3-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine | 10.1 mmol, 3.47 g | BrC=1N=C2C(=NC1C)N(C=C2)COCC[Si](C)(C)C | C13H20BrN3OSi
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-bromo-3-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carbaldehyde | 3.17 g, 84% | BrC=1N=C2C(=NC1C)N(C=C2C=O)COCC[Si](C)(C)C | C14H20BrN3O2Si
